US06670458B2
Synthesis of L-ribose
2,3-O-isopropylidene-L-ribofuranose (4.0 g) prepared in Example 2 was dissolved in a solvent mixture of dioxane (8 ml) and water (8 ml), and 1.0N hydrochloric acid solution (200 μl) was added thereto. The reaction proceeded for about 24 hours while maintaining the temperature in the reaction vessel of 40° C. After TLC revealed the completion of reaction, the solvent was removed by distillation under reduced pressure. The residue was dissolved in water (15 ml) which was then washed with ethyl acetate to remove some impurities. Water was removed by distillation under reduced pressure to give a compound in the form of an oil. The compound thus obtained was purified by silica gel column chromatography (eluent: chloroform/methanol=4/1, v/v) to give the title compound (2.2 g, Yield 70%).

reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | water | 8 ml | O | H2O
solvent | hydrochloric acid | 1.0N, 200 μl | Cl | ClH
product | L-ribose | 2.2 g, Yield 70% | O=C[C@@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
